US08912188B2
To a solution of methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (500 mg, crude) in DMSO (6 mL) was added DIEA (543 mg, 4.20 mmol), (2S)-2-methylpiperidine (104 mg, 1.05 mmol). The solution was stirred for 6 h at 100° C. Then the reaction was quenched by the addition of water (50 mL). The resulting solution was extracted with ethyl acetate (4×30 mL) and the organic layers were concentrated under vacuum. The residue was purified by a silica gel column with 1%-5% ethyl acetate in petroleum ether to afford methyl 3-[(2S)-2-methylpiperidin-1-yl]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a yellow solid (98 mg).

reactant | methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 500 mg | ClC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C10H7ClN2O3
reactant | DIEA | 4.20 mmol, 543 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (2S)-2-methylpiperidine | 1.05 mmol, 104 mg | C[C@@H]1NCCCC1 | C6H13N
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | methyl 3-[(2S)-2-methylpiperidin-1-yl]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 98 mg | C[C@@H]1N(CCCC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C16H19N3O3
